US04518596
2-(N-Formyl-piperazino)-8-methylthio-4-morpholino-pyrimido-[5,4-d]-pyrimidine
10.4 gm (0.035 mol) of 2-chloro-8-methylthio-4-morpholino-pyrimido-[5,4-d]-pyrimidine (m.p. 179°-180° C.) were heated with 28.5 gm (0.25 mol) of N-formyl-piperazine at about 100° C. for 30 minutes. The resulting solution was taken up in about 300 ml of water, whereby the reaction product was obtained as yellowish precipitate. The precipitate was suction-filtered off, washed with water and dried at 70° C.

reactant | 2-chloro-8-methylthio-4-morpholino-pyrimido-[5,4-d]-pyrimidine | 0.035 mol, 10.4 gm | ClC=1N=C(C2=C(N1)C(=NC=N2)SC)N2CCOCC2 | C11H12ClN5OS
reactant | N-formyl-piperazine | 0.25 mol, 28.5 gm | C(=O)N1CCNCC1 | C5H10N2O
solvent | water | about 300 ml | O | H2O
product | 2-(N-Formyl-piperazino)-8-methylthio-4-morpholino-pyrimido-[5,4-d]-pyrimidine | C(=O)N1CCN(CC1)C=1N=C(C2=C(N1)C(=NC=N2)SC)N2CCOCC2 | C16H21N7O2S
